US07491722B2
5-Acetyl-2-ethyl-4-[(4-methylpyrimidin-2-yl)amino]-6-phenylpyridazin-3(2H)-one
To a stirred solution of 80 mg (0.278 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (4 mL), 2-amino-4-methylpyrimidine (46 mg, 0.417 mmol) was added. The resulting mixture was stirred at 50° C. during five days. The solvent was evaporated and the residue purified by column chromatography (silica gel, hexane/ethyl acetate 2:1) to yield the title compound (11 mg, 11.3% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.278 mmol, 80 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 2-amino-4-methylpyrimidine | 0.417 mmol, 46 mg | NC1=NC=CC(=N1)C | C5H7N3
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-[(4-methylpyrimidin-2-yl)amino]-6-phenylpyridazin-3(2H)-one | 11 mg, 11.3% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=NC=CC(=N1)C | C19H19N5O2
